US07462624B2
Step B: 3-(3-benzyl-1,2,4-oxadiazol-5-yl)propanoic acid
To a solution of methyl 3-(3-benzyl-1,2,4-oxadiazol-5-yl)propanoate (5.2 g, 21.1 mmole) in methanol (30 ml) was added 50 ml of 1N NaOH aqueous solution. The mixture was stirred at room temperature for 2 hours. After the reaction solution was adjusted to be acidic (pH=3-4) at 0° C., the reaction mixture was extracted with EtOAc 3 times. The combined organic layers were washed with water and brine, dried over Na2SO4, filtered and concentrated to give the desired product as colorless oil (4.8 g, 98%). LCMS calculated for C12H13N2O3 (M+H): 233.1; found: 233.1.

reactant | methyl 3-(3-benzyl-1,2,4-oxadiazol-5-yl)propanoate | 21.1 mmole, 5.2 g | C(C1=CC=CC=C1)C1=NOC(=N1)CCC(=O)OC | C13H14N2O3
reactant | NaOH | 1N, 50 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 3-(3-benzyl-1,2,4-oxadiazol-5-yl)propanoic acid | 4.8 g, 98% | C(C1=CC=CC=C1)C1=NOC(=N1)CCC(=O)O | C12H12N2O3
